US09233964B2
7-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-4,7-diazaspiro[2.5]octane-4-carboxylic acid tert-butyl ester
To commercially available 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (1.0 g, 6.5 mmol) dissolved in DMF (5 ml) was added Et3N (1.3 ml, 9.8 mmol) followed by commercially available 4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester (1.5 g, 7.2 mmol). The reaction mixture was heated for 16 hours at 110° C. After evaporation of the solvent in vacuo the crude mixture was treated with water (25 mL) and extracted with EtOAc (4×30 mL) the combined organic phases were washed with brine (2×20 mL), dried over Na2SO4, filtered and concentrated in vacuo to provide 1.5 g crude. The product was purified by flash chromatography on silica using EtOAc in heptane as eluent.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 6.5 mmol, 1.0 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | Et3N | 9.8 mmol, 1.3 ml | CCN(CC)CC | C6H15N
reactant | 4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester | 7.2 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C2(CC2)CNCC1 | C11H20N2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-4,7-diazaspiro[2.5]octane-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2(CC2)CN(CC1)C=1C2=C(N=CN1)NC=C2 | C17H23N5O2
